US04460596
5.8 g of ethyl 3-benzoylamino-3-(3-thienylcarbonyl)propionate, 30 ml of dimethylformamide and 3.8 g of phosphorus oxychloride are treated in the same manner as described in Example 1. 4.3 g of ethyl 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetate are thereby obtained.

reactant | ethyl 3-benzoylamino-3-(3-thienylcarbonyl)propionate | 5.8 g | C(C1=CC=CC=C1)(=O)NC(CC(=O)OCC)C(=O)C1=CSC=C1 | C17H17NO4S
reactant | phosphorus oxychloride | 3.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetate | 4.3 g, Yield: 79% | C1(=CC=CC=C1)C=1OC(=C(N1)CC(=O)OCC)C1=CSC=C1 | C17H15NO3S
